US07572820B2
A. 5-Bromo-4-chloro-2-(trifluoromethyl)-1H-benzimidazole
Synthesized as described in Example 195C from 4-bromo-3-chloro-1,2-benzenediamine and TFA: MS (ESI) m/z 301 (M+1).

reactant | 4-bromo-3-chloro-1,2-benzenediamine | BrC=1C(=C(C(=CC1)N)N)Cl | C6H6BrClN2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Bromo-4-chloro-2-(trifluoromethyl)-1H-benzimidazole | BrC1=C(C2=C(NC(=N2)C(F)(F)F)C=C1)Cl | C8H3BrClF3N2
